US07550598B2
(Z)-1-methyl-N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)piperidine-4-carboxamide
The title compound was synthesized using (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and 1-methylpiperidine-4-carbonyl chloride in THF according to the procedure described in the synthesis of Example 26. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.69 (t, J=7.33 Hz, 3H) 1.32 (dq, J=14.84, 7.35 Hz, 2H) 1.79-1.90 (m, 2H) 2.02-2.05 (m, 2H) 2.16-2.18 (m, 2H) 2.58-2.69 (m, 2H) 2.79-2.84 (m, 3H) 2.94-3.06 (m, 2H) 6.73 (s, 1H) 7.57 (t, J=7.45 Hz, 1H) 7.69 (d, J=8.59 Hz, 2H) 7.79-7.91 (m, 4H) 8.09 (d, J=8.08 Hz, 1H) 9.28 (s, 1H) 10.45 (s, 1H); ESI-MS: m/z calc'd for C28H31N5O2S 501.64. found 502.1 (M+H)+.

reactant | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
reactant | 1-methylpiperidine-4-carbonyl chloride | CN1CCC(CC1)C(=O)Cl | C7H12ClNO
solvent | THF | C1CCOC1 | C4H8O
product | (Z)-1-methyl-N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)piperidine-4-carboxamide | CN1CCC(CC1)C(=O)NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C28H31N5O2S
